US07220856B2
Preparation of 3-[[[4-(2-Amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]-cyclohexanecarboxylic Acid, Methyl Ester
As described for example 78, 2-amino-cyclohexanecarboxylic acid-methyl ester, 4-nitrophenyl chloroformate, diisopropyl(ethyl)amine, and 7-chloro-4-(1-piperazinyl)-2-quinolinamine are reacted to afford the product as a light yellow solid. LC-MS: 446 (M++1). 1H NMR (CD3OD) δ 1.20–1.40 (m, 4H), 1.90 (m, 3H), 2.10 (m, 1H), 2.45 (m, 1H), 3.30 (m, 4H), 3.70 (m, 8H), 6.35 (s, 1H), 7.38 (d, 1H), 7.60 (s, 1H), 790 (d, 1H).

reactant | 2-amino-cyclohexanecarboxylic acid-methyl ester | COC(=O)C1C(CCCC1)N | C8H15NO2
reactant | 4-nitrophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | diisopropyl(ethyl)amine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 7-chloro-4-(1-piperazinyl)-2-quinolinamine | ClC1=CC=C2C(=CC(=NC2=C1)N)N1CCNCC1 | C13H15ClN4
product | 3-[[[4-(2-Amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]-cyclohexanecarboxylic Acid, Methyl Ester | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)NC1CC(CCC1)C(=O)OC)Cl | C22H28ClN5O3
